US06080773
2-(3-cyanophenyl)-a-2-propynyl-benzenemethanamine
2-(isoxazolo[5,4-b]pyridin-3-yl)-a-2-propynyl-benzenemethanamine (Z)-butenedioate starting from 2-(isoxazolo[5,4-b]pyridin-3-yl)-benzaldehyde, melting at 180-185° C. (dec).

reactant | 2-(isoxazolo[5,4-b]pyridin-3-yl)-a-2-propynyl-benzenemethanamine (Z)-butenedioate | C(\C=C/C(=O)O)(=O)O.O1N=C(C=2C1=NC=CC2)C2=C(C=CC=C2)C(N)CC#C
reactant | 2-(isoxazolo[5,4-b]pyridin-3-yl)-benzaldehyde | O1N=C(C=2C1=NC=CC2)C2=C(C=O)C=CC=C2 | C13H8N2O2
product | 2-(3-cyanophenyl)-a-2-propynyl-benzenemethanamine | C(#N)C=1C=C(C=CC1)C1=C(C=CC=C1)C(N)CC#C | C17H14N2
